2131-01-05 07:45:00 Physician Resident Progress Note
Chief Complaint: Hyperglycemia, weakness
   24 Hour Events:
   Some vomiting in AM
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 56**] Medical [**Name2 (NI) 11532**]
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-1-5**] 06:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 104 (97 - 124) bpm
   BP: 104/59(70) {99/59(70) - 147/98(109)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    983 mL
                                                                  2,204 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                    983 mL
                                                                  1,699 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    300 mL
   Urine:
                                                                    450 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    533 mL
                                                                  1,904 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: Alert, oriented, no acute distress, anxious
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   216 K/uL
   9.4 g/dL
   134 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   9 mg/dL
   110 mEq/L
   137 mEq/L
   28.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
   WBC
   13.0
   Hct
   28.4
   Plt
   216
   Cr
   0.9
   1.0
   0.8
   0.8
   Glucose
   103
   99
   91
   134
   Other labs: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:73.5 %, Lymph:22.1 %, Mono:3.8 %, Eos:0.5 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Microbiology: Blood cx x 2 [**2131-1-4**] Pending
   Urine cx [**2131-1-4**] Pending
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 DIABETIC KETOACIDOSIS (DKA)
 DEPRESSION
 ANXIETY
 DIABETIC GASTROPARESIS
   Assessment and Plan:
   25 yo woman with a h/o DMI, HLP, anxiety, presents with increased
   anxiety, diarrhea/stool incontinence, polydipsia, polyuria, p/w
   hyperglycemia who presents with DKA.
   .
   DKA: Gap closed, glucose normalized (somewhat hypoglycemic this AM but
   improved after juice and D5). Likely secondary to gastroenteritis. Ddx
   includes medication nonadherance although question this given pt
   demonstrating strong understanding of her insulin regimen. Purposeful
   withholding of insulin in the setting of vomiting from diabetic
   gastroparesis is possible.
   -Insulin SSI + Lantus 9U at dinner
   -Q6H electrolytes
   -DC D51/2NS as glucose normalized and insulin gtt stopped
   -Start
 NS maintenance fluid
   -Check blood cultures, stool cultures to evaluate source of infection
   -Check AM cortisol to rule out [**Location (un) 6367**] syndrome (unlikely)
   -Advance diet
   -Social work consult on floor
   -Floor team can consider [**Last Name (un) 276**] consult, ideally would like to plug pt
   back into the [**Last Name (un) 276**]
   .
   Diabetic gastroparesis uncontrolled: Pt vomiting significantly this AM.
   Seems to be worse and likely complicating her ability to manage her
   diabetes.
   -Continue reglan
   -Zofran prn N/V
   -Consider alternative regimens such as erythromycin
   -[**Last Name (un) 276**] f/u and consider inpatient consult
   .
   HLP: Unclear as previous lipids were wnl in [**2127**].
   -Rechecking lipids
   -Hold zetia for now as unclear correct dosage.
   .
   Depression/Anxiety:
   -Continue sertraline and trazadone with ativan PRN breakthrough anxiety
   FEN: IVF, replete electrolytes, diabetic diet
   .
   Prophylaxis: Subutaneous heparin, ambulate as pt is refusing
   .
   Access: peripherals
   .
   Code: Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   20 Gauge - [**2131-1-4**] 06:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2131-01-06 08:11:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   -gap opened up and patient called back in
   -insulinn gtt and IVF with D5 restarted
   -vomiting yesterday
   today feels a little better
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsMorphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-1-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, Nausea, Emesis
   Flowsheet Data as of  [**2131-1-6**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 104 (89 - 134) bpm
   BP: 115/73(82) {97/54(64) - 156/115(123)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,904 mL
                                                                  1,521 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  6,399 mL
                                                                  1,521 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,050 mL
   Urine:
                                                                  3,350 mL
                                                                  1,050 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,204 mL
                                                                    471 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   11.2 g/dL
   162 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   5 mg/dL
   103 mEq/L
   136 mEq/L
   33.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
                             [**2131-1-5**]  01:27 PM
                             [**2131-1-5**]  07:44 PM
                             [**2131-1-6**]  04:07 AM
   WBC
   13.0
   9.0
   Hct
   28.4
   34.5
   33.4
   Plt
   216
   235
   Cr
   0.9
   1.0
   0.8
   0.8
   0.9
   0.8
   0.7
   Glucose
   103
   99
   91
   134
   248
   113
   162
   Other labs: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:73.5 %, Lymph:22.1 %, Mono:3.8 %, Eos:0.5 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Microbiology: cultures without growth
   Assessment and Plan
   25 yo F with h/o Type I DM admitted with DKA.
 DIABETIC KETOACIDOSIS (DKA)
   Gap reopened. PO intake was poor. Restarted insulin gtt and IVF with
   dextrose. Will continue with gtt and dextrose until closed and then
   overlap with subcut x 2-3 hours.
   -Continue reglan
   -Zofran prn N/V
   -[**Last Name (un) 276**] f/u and consider inpatient consult
 DIABETES MELLITUS (DM), TYPE I
   -Social work consult on floor
   -Floor team can consider [**Last Name (un) 276**] consult, ideally would like to plug pt
   back into the [**Last Name (un) 276**]
 DEPRESSION
   -Continue sertraline and trazadone
 ANXIETY
   -ativan PRN breakthrough anxiety
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   22 Gauge - [**2131-1-6**] 07:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-01-06 08:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-1-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-6**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 96 (89 - 134) bpm
   BP: 114/75(84) {97/54(64) - 156/115(123)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,904 mL
                                                                  1,588 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  6,399 mL
                                                                  1,588 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,750 mL
   Urine:
                                                                  3,350 mL
                                                                  1,750 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,204 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   235 K/uL
   162 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   5 mg/dL
   103 mEq/L
   136 mEq/L
   33.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
                             [**2131-1-5**]  01:27 PM
                             [**2131-1-5**]  07:44 PM
                             [**2131-1-6**]  04:07 AM
   WBC
   13.0
   9.0
   Hct
   28.4
   34.5
   33.4
   Plt
   216
   235
   Cr
   0.9
   1.0
   0.8
   0.8
   0.9
   0.8
   0.7
   Glucose
   103
   99
   91
   134
   248
   113
   162
   Other labs: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:73.5 %, Lymph:22.1 %, Mono:3.8 %, Eos:0.5 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 ANXIETY
   25F DM1 c/b numerous admits for DKA p/w same.
    Exam notable for Tm 98.9 BP 140/90 HR 111 RR 18 with sat 100 on RA.
   Frail woman, c/o abd pain / nausea. CTAB RRR s1s2. Soft +BS. No edema.
   Labs notable for WBC 13K, HCT 28, K+ 3.6, Cr 0.8. CXR with clear lungs.
   Agree with plan to manage recurrent DKA in this woman with poorly
   controlled DM with home glargine and RISS while advancing diet and
   working to control gastroparesis / emesis. Will check EKG this AM, no
   clear infectious trigger, and consult [**Last Name (un) 276**]. SW consult on floor.
   Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   22 Gauge - [**2131-1-6**] 07:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2131-01-06 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25F DM1 c/b numerous admits for DKA p/w same.
   24 Hour Events:
   Anion gap reopened - insulin drip restarted last night
   c/o abd pain / nausea
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-1-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-6**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 125 (89 - 134) bpm
   BP: 150/90(108) {97/54(64) - 156/115(123)} mmHg
   RR: 17 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,904 mL
                                                                  2,217 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  6,399 mL
                                                                  2,217 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  2,350 mL
   Urine:
                                                                  3,350 mL
                                                                  2,350 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,204 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1S2 normal
   Peripheral Vascular: PPP
   Respiratory / Chest: clear
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent. Skin:  Warm
   Labs / Radiology
   11.2 g/dL
   235 K/uL
   162 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   5 mg/dL
   103 mEq/L
   136 mEq/L
   33.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
                             [**2131-1-5**]  01:27 PM
                             [**2131-1-5**]  07:44 PM
                             [**2131-1-6**]  04:07 AM
   WBC
   13.0
   9.0
   Hct
   28.4
   34.5
   33.4
   Plt
   216
   235
   Cr
   0.9
   1.0
   0.8
   0.8
   0.9
   0.8
   0.7
   Glucose
   103
   99
   91
   134
   248
   113
   162
   Other labs: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:73.5 %, Lymph:22.1 %, Mono:3.8 %, Eos:0.5 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 ANXIETY
   25F DM1 c/b numerous admits for DKA p/w same. No obvious precipitating
   infection. Hx of poor compliance
   DKA
 remains on insulin drip. Will advanced diet and work to control
   gastroparesis / emesis. No clear infectious trigger, [**Last Name (un) 276**] involved.
   Gap now closed. Will transition to q6h RISS + Lantus at lower dose than
   home 9 units. SW consult once on floor. Remainder of plan as outlined
   in housestaff
s note. Remains in ICU until gap consistently closed
   ICU Care
   Nutrition: advance as tolerated
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   22 Gauge - [**2131-1-6**] 07:02 AM
   Prophylaxis:
   DVT: SCH but refusing, will add pneumoboots
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2131-01-07 07:16:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   - off insulin gtt, wrote for lantus 4u w/ iss
   - changed reglan prn to standing
   - Pt with episodes of hyperglycemia overnight up to 400s.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsMorphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-1-6**] 12:00 PM
   Lorazepam (Ativan) - [**2131-1-6**] 12:00 PM
   Hydromorphone (Dilaudid) - [**2131-1-7**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 132 (79 - 160) bpm
   BP: 157/90(105) {94/59(68) - 158/107(119)} mmHg
   RR: 16 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,524 mL
                                                                    549 mL
   PO:
                                                                    570 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  3,954 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                  1,070 mL
   Urine:
                                                                  4,750 mL
                                                                    800 mL
   NG:
                                                                    250 mL
                                                                    270 mL
   Stool:
   Drains:
   Balance:
                                                                   -476 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, anxious young woman in NAD
   Cardiovascular: (S1: Normal), (S2: Normal), no RMG
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   no WRR
   Abdominal: Soft, Non-tender, ND, Bowel sounds present
   Skin:  No rash
   Neurologic: Alert and oriented
   Psychiatry: Withdrawls socially does not easily engage in conversation
   or make eye contact.
   [**Name (NI) 503**] / Radiology
   218 K/uL
   11.9 g/dL
   210 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.2 mEq/L
   3 mg/dL
   99 mEq/L
   135 mEq/L
   35.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
                             [**2131-1-5**]  01:27 PM
                             [**2131-1-5**]  07:44 PM
                             [**2131-1-6**]  04:07 AM
                             [**2131-1-6**]  05:15 PM
                             [**2131-1-7**]  02:06 AM
   WBC
   13.0
   9.0
   5.3
   Hct
   28.4
   34.5
   33.4
   35.2
   Plt
   [**Telephone/Fax (3) 11544**]
   Cr
   0.9
   1.0
   0.8
   0.8
   0.9
   0.8
   0.7
   0.9
   0.7
   Glucose
   103
   99
   91
   134
   [**Telephone/Fax (2) 11545**]35
   210
   Other [**Telephone/Fax (2) **]: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:65.3 %, Lymph:29.5 %, Mono:4.4 %, Eos:0.7 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Microbiology: Blood Cx [**2131-1-5**] Pending (x2)
   ASSESSMENT AND PLAN:
   25 yo F with h/o Type I DM admitted with DKA.
 DIABETIC KETOACIDOSIS (DKA)
   Readmitted to ICU because gap reopened, has now persistently closed
   again after insulin gtt. PO intake has been very poor with frequent
   nausea and vomitting.
   -STOP D51/2NS as this is likely exacerbating hyperglycemia
   -Continue SSI and reduced lantus dose of 4units at lunchtime daily
   -Continue to monitor lytes
   -Treat hypokalemia
   -Pt would benefit greatly from outpatient [**Last Name (un) 276**] f/u and floor team to
   consider inpatient consult
 SINUS TACHYCARDIA: Upon review of [**Name (NI) 1163**], pt has had sinus tachycardia
   in 110s-120s since [**2124**] on multiple EKGs. Currently at times in
   140s-150s. I believe she has a baseline diabetic autonomic neuropathy
   leading to chronic sinus tachycardia, that is now exacerbated by
   hypovolemia secondary to intractable nausea and vomitting. Urine cx,
   blood cx, and CXR all without evidence of infection.
   -Bolus with NS PRN
   -Check EKG, cardiac enzymes: wnl
   -Check TSH, free T4 - wnl
   -[**Last Name (un) 276**] f/u to obtain better DM control (Last a1C [**11-8**] was 11).
 NAUSEA AND VOMITTING: Severe. Chronic problem however markedly
   worsened since admission. Consider diabetic gastroparesis despite
   negative gastric emptying time given high clinical suspicion. Other
   possibility may include insufficiently treated H. Pylori gastritis (she
   only reports using 1 antibiotic, PPI daily, and peptobismal for 2
   weeks. Cardiac ischemia unlikely given young age, lack of CP, nl EKG,
   negative cardiac enzymes. Gastroenteritis viral syndrome possible,
   however pt without diarrhea. Per GI note last fall, pt diagnosed with
   cyclical vomitting syndrome (idiopathic). Pt moving bowels.
   -EKG, enzymes nl
   -KUB negative for obstruction
   -Consider repeat gastric emptying study given severity of sx
   -Consider inpatient GI consult for repeat endoscopy
   -Compazine, reglan (standing), zofran prn nausea
   -Ativan prn nausea/vomitting
 DIABETES MELLITUS (DM), TYPE I UNCONTROLLED
   -Social work consult on floor
   -Continue SSI and [**Last Name (un) 276**] f/u per above
 DEPRESSION
   -Continue sertraline and trazadone
 ANXIETY
   -ativan PRN breakthrough anxiety
   -Consider psychiatry consult as pt with severe and subacute anxiety
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   22 Gauge - [**2131-1-6**] 07:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-01-07 09:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachycardic to 150s, received IVF bolus
   Persistent vomiting
   Received lantus and Reg insulin, off insulin drip
   Zofran increased
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-1-6**]
   Lorazepam (Ativan) - [**2131-1-6**] 12:00p
   Hydromorphone (Dilaudid) - [**2131-1-7**] 02:03 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-7**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 141 (79 - 160) bpm
   BP: 162/107(120) {94/59(68) - 162/107(120)} mmHg
   RR: 15 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,524 mL
                                                                  1,856 mL
   PO:
                                                                    570 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  3,954 mL
                                                                  1,706 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                  1,270 mL
   Urine:
                                                                  4,750 mL
                                                                    800 mL
   NG:
                                                                    250 mL
                                                                    470 mL
   Stool:
   Drains:
   Balance:
                                                                   -476 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   218 K/uL
   210 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.2 mEq/L
   3 mg/dL
   99 mEq/L
   135 mEq/L
   35.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2131-1-4**]  08:35 PM
                             [**2131-1-4**]  10:16 PM
                             [**2131-1-4**]  11:39 PM
                             [**2131-1-5**]  03:38 AM
                             [**2131-1-5**]  01:27 PM
                             [**2131-1-5**]  07:44 PM
                             [**2131-1-6**]  04:07 AM
                             [**2131-1-6**]  05:15 PM
                             [**2131-1-7**]  02:06 AM
   WBC
   13.0
   9.0
   5.3
   Hct
   28.4
   34.5
   33.4
   35.2
   Plt
   [**Telephone/Fax (3) 11544**]
   Cr
   0.9
   1.0
   0.8
   0.8
   0.9
   0.8
   0.7
   0.9
   0.7
   Glucose
   103
   99
   91
   134
   [**Telephone/Fax (2) 11545**]35
   210
   Other labs: ALT / AST:36/49, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:65.3 %, Lymph:29.5 %, Mono:4.4 %, Eos:0.7 %,
   Albumin:3.5 g/dL, LDH:125 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 ANXIETY
   25F DM1 c/b numerous admits for DKA p/w same. No obvious precipitating
   infection. Question of poor compliance
   DKA
 remains on insulin drip. Will advanced diet and work to control
   gastroparesis / emesis. No clear infectious trigger, [**Last Name (un) 276**] involved.
   Gap now closed. Will transition to q6h RISS + Lantus at lower dose than
   home 9 units.
   SW consult once on floor. Remainder of plan as outlined in housestaff
   note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2131-1-4**] 06:40 PM
   22 Gauge - [**2131-1-6**] 07:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes